US03965220
To the reaction mixture of (1), there is added 188 g. phenol and the temperature is raised to 150°C. for 2 hours. The reaction mixture is alllowed to cool and stripped of phenyl phosphorodichloridate. Distillation of the residue affords principally diphenyl phosphorochloridate.

reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | phenyl phosphorodichloridate | P(OC1=CC=CC=C1)(=O)(Cl)Cl | C6H5Cl2O2P
product | diphenyl phosphorochloridate | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)(=O)Cl | C12H10ClO3P
